Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
J-tube replacement (___)
PICC placement (___) 
J-tube removal (___) 

 
History of Present Illness:
___ with EtOH cirrhosis complicated by ascites, SBP, HE, and 
HRS, s/p Roux-en-Y gastric bypass c/b recurrent anastomotic 
strictures requiring multiple endoscopic dilations, and multiple 
abdominal
surgeries for bowel anastomosis complications who presents from 
home with ___ abdominal pain. Pt was recently admitted to 
___ service from ___ - ___ with the same 
complaint. She was started on methylnaltrexone for presumed 
intestinal immobility as the result of Roux-en-Y and multiple 
surgical complications after extensive work-up showed 
persistently dilated small intestine. That admission was also
complicated by enterococcus bacteremia (treated with 2 weeks of 
IV vanco) due to chronic PICC line for TPN.

Reports sudden onset of ___ abdominal pain that radiates to 
the back awoke her from sleep last night. No associated 
nausea/vomiting/diarrhea; last BM was in ___ on ___. Tried to 
take an extra dose of tramadol 100mg, which helped a little, but 
not much. Prior to this episode, she had been doing relatively 
well at home. Attended a cook-out on ___, ate small amount 
of potato salad and tolerated it. Has been adherent to tube 
feeds and TPN. Reports that she was unable to fill her torsemide 
as an outpatient due to communication error with her ___ 
pharmacy. Reports gaining 13 lbs since discharge (though on 
arrival she is only 2 lbs above her discharge/presumed dry 
weight). No respiratory symptoms of volume overload (orthopnea, 
DOE).

In the ED initial vitals: T 98.9, HR 97, BP 116/65, RR 18, 98% 
RA
- Exam notable for: J draining yellow, G site clean. Lower
abdomen tender. Midline surgical incision.
- Imaging notable for:  RUQ US with cholelithiasis, no ascites
- Labs notable for: Na 130, K 5.1, BUN 29, Cr 0.9. T bil 2.8, 
alb
2.9.
- Patient was given:  4mg IV morphine x2, 1L NS
- Vitals prior to transfer:  HR 95, BP 112/56, RR 20, SpO2 96% 
RA

 
Past Medical History:
- ETOH cirrhosis complicated by ascites, HE, SBP
- Obesity  
     - s/p gastric bypass c/b stricture of the gastrojejunal  
     anastomosis and internal hernia causing SBO s/p multiple  
     endoscopic dilations c/b perforation (as detailed below)  
- SBO as above  
- Exploratory laparotomy, takedown old gastrojejunostomy,  
gastrogastrostomy, feeding jejunostomy (___ ___ for  
perforated gastrojejunal anastomosis site with reopening of  
recent laparotomy and closure of gastrostomy (___ ___  
- Epileptiform discharges concerning for possible seizure in  
setting of altered mental status, started on keppra ___  
- numerous hospitalizations for abdominal pain, requiring  
paracenteses  
- depression/anxiety  
- GERD  
- hx of Cdiff  
- IBS  
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia  
- Right breast lesions s/p U/S guided core biopsy on ___ -  
pathology showing fibroadipose tissue with blood, fibrin, and  
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications  

 
Social History:
___
Family History:
- father w/ diabetes  
- maternal grandfather has unknown cancer  
- She has no family history of liver disease, hemochromatosis,  
 autoimmune diseases, or non-smoker emphysema  

 
Physical Exam:
ADMISSION EXAM 
==============
VS: T 97.9, BP 113/66, HR 94 , RR 18, SpO2 96/RA 
WEIGHT: 93.5 kg
GENERAL:  tired-appearing, lying propped up in bed, NAD.
HEENT: PERRL, no scleral icterus
CARDIAC:  RRR, S1+S2, II/VI systolic murmur heard throughout
PULMONARY:  faint breath sounds, CTAB, no W/R/C
ABDOMEN:  mildly distended, tympanitic, soft, very TTP in lower
quadrants b/l. No rebound. <1 cm rubbery nodule, mobile, in
subcutaneous tissue in RLQ, non-tender.
EXTREMITIES: 2+ pitting edema to hips
SKIN:  ecchymoses in RLQ at methylnaltrexone injection site
NEUROLOGIC:  moving all 4 extremities with purpose
PSYCHIATRIC:  looks sad, but pleasant and cooperative, hopeful

DISCHARGE EXAM
===============
VS: 97.9 95 / 59 80 18 95 Ra  
Weight:  102.29 kg
GEN: lying in bed, comfortable
HEENT: MMM, sclera anicteric
CV: Regular rate and rhythm, ___ systolic ejection murmur heard
throughout entire precordium, normal S1/S2. 
RESP: CTA b/l anterior fields 
ABD: hyperactive BS, soft, mildly tender to palpation 
throughout,
but worst over previous j-tube site. G-tube intact w/o drainage.
Old j-tube site with granulation tissue surrounding it without
erythema. Ostomy bag in place draining clear brown fluid without 
purulence. 
EXT: Warm and well-perfused, 2+ pitting ___ edema, stable (L>R,
chronic) 
NEURO: alert, oriented x3; no asterixis 
 
Pertinent Results:
===============
Admission labs
===============
___ 12:20PM BLOOD WBC-7.9 RBC-2.19* Hgb-8.1* Hct-24.2* 
MCV-111* MCH-37.0* MCHC-33.5 RDW-19.6* RDWSD-79.0* Plt ___
___ 12:20PM BLOOD ___ PTT-38.3* ___
___ 12:20PM BLOOD Glucose-89 UreaN-29* Creat-0.9 Na-130* 
K-5.1 Cl-94* HCO3-22 AnGap-14
___ 12:20PM BLOOD ALT-31 AST-63* AlkPhos-97 TotBili-2.8*
___ 07:06PM BLOOD Calcium-8.8 Phos-4.2 Mg-1.7
___ 05:00AM BLOOD Triglyc-42
___ 12:49PM BLOOD Lactate-1.8

===============
Pertinent labs
===============
___ 06:54AM URINE Color-Yellow Appear-Clear Sp ___
___ 06:54AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD*
___ 06:54AM URINE RBC-<1 WBC-19* Bacteri-NONE Yeast-NONE 
Epi-1 TransE-1
___ 06:54AM URINE CastHy-9*
___ 12:30PM URINE UCG-NEG

===============
Discharge labs
===============
___ 05:26AM BLOOD WBC-4.7 RBC-1.97* Hgb-7.3* Hct-21.8* 
MCV-111* MCH-37.1* MCHC-33.5 RDW-19.7* RDWSD-80.9* Plt Ct-58*
___ 05:26AM BLOOD ___ PTT-35.7 ___
___ 05:26AM BLOOD Glucose-105* UreaN-49* Creat-0.9 Na-133* 
K-4.6 Cl-101 HCO3-24 AnGap-8*
___ 05:26AM BLOOD ___ PTT-35.7 ___
___ 05:26AM BLOOD ALT-19 AST-49* AlkPhos-101 TotBili-2.2*
___ 05:26AM BLOOD Calcium-10.1 Phos-4.1 Mg-2.0

===============
Studies
===============
CT A/P ___: 1. Interval removal of the jejunostomy without focal 
fluid collections to suggest abscess formation. Evaluation for a 
fistula is limited without IV contrast. Adjacent fat stranding 
and subcutaneous emphysema are expected. 2. Diffuse distension 
of small bowel loops with air-fluid levels, unchanged compared 
to prior, likely representing ileus. 3. Cirrhotic appearing 
liver with sequela of portal hypertension including splenomegaly 
and diffuse anasarca. 4. Consolidation at the left lung base, 
likely atelectasis, however underlying infection cannot entirely 
be excluded. 5. Unchanged mild right hydronephrosis. 6. 
Cholelithiasis. J tube 

ABDOMINAL US ___: Transverse and sagittal images were obtained 
of the superficial tissues of the left lateral hemiabdomen.  In 
the region of patient's J tube, there is bowel seen underlying 
the tube, with no abscess identified. 

CXR ___:  Scattered opacities throughout the left lung likely 
reflect atelectasis, similar to prior, however a superimposed 
infection would be hard to exclude. 

===============
Microbiology 
===============
Blood cultures
---------------
___: NEGATIVE
___: NEGATIVE 
___: NEGATIVE
___:    KLEBSIELLA PNEUMONIAE.    FINAL SENSITIVITIES. 
         KLEBSIELLA PNEUMONIAE.    ___ MORPHOLOGY.  FINAL 
SENSITIVITIES. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |          KLEBSIELLA PNEUMONIAE
                             |          |   
AMPICILLIN/SULBACTAM--     8 S     =>32 R
CEFAZOLIN-------------   <=4 S      <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S      0.5 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
PIPERACILLIN/TAZO-----       S       16 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----  =>16 R     =>16 R
___: NEGATIVE

Urine cultures
--------------
___: NEGATIVE
___: NEGATIVE

Other cultures
----------------
___: J-tube site - MIXED BACTERIAL FLORA
___: PICC tip - NEGATIVE 

 
Brief Hospital Course:
___ with EtOH cirrhosis complicated by ascites, SBP, HE, and 
HRS, s/p Roux-en-Y gastric bypass c/b recurrent anastomotic 
strictures requiring multiple endoscopic dilations, and multiple 
abdominal surgeries for bowel anastomosis complications who 
presented from home with acute on chronic abdominal pain. 
Hospital course was complicated by ___ tube cellulitis, 
Klebsiella bacteremia, and J-tube dislodgement and eventual 
removal. 

#Abdominal pain, acute on chronic
#Gastric dysmotility
#Ileus, chronic partial obstruction, strictures
#Multiple abdominal surgeries
Patient presented with acute worsening of chronic abdominal 
pain. Imaging (ultrasound and KUB) was notable for 
cholelithiasis and mildly dilated loops of bowel, consistent 
with known ileus vs obstruction, otherwise work-up unrevealing. 
Concern for intolerance of higher tube feeding rate. She was 
continued on an aggressive bowel regimen, including 
methylnaltrexone. She initially received breakthrough IV pain 
medications, transitioned to Dilaudid 2 mg PO q6h prn 
breakthrough pain before discharge. During her hospitalization, 
the patient's J-tube fell out twice and was eventually removed 
after extensive discussion between Hepatology, Interventional 
Radiology, and Transplant Surgery. She was sent home on TPN. The 
plan is to possibly try to use her g-tube in the future, but 
keep her NPO except drinks that she can tolerate for now.

#Cellulitis
#J-tube dislodgement
Initial exam was concerning for erythema and drainage around 
J-tube site, consistent with cellulitis. While in the hospital, 
her tube dislodged. She is s/p replacement by ___, requiring 
upsizing ___ large tract. It then fell out again, after 
discussing with ___ it was decided to place suture string around 
the bumper to keep it in place. She was started on treatment 
dose Bactrim to complete a x7 day course for cellulitis ___ 
- ___, but in the setting of persistent erythema and pus 
started on IV vancomycin (___). Her j-tube was removed 
on ___ after extensive discussion between Hepatology, 
Interventional Radiology, and Transplant Surgery. The future 
plans are to continue TPN for the short term and then to 
possibly try use her g-tube in the future. J-tube site with 
ostomy bag in place. Patient was educated on ostomy care while 
inpatient and will continue with changes. 

#Klebsiella bacteremia:
In the setting of worsened abdominal pain, infectious work-up 
was sent which was notable for Klebsiella bacteremia. Concern 
for intraabdominal translocation or cellulitis as source. Her 
PICC was removed, replaced on ___. She initially received 
broad spectrum antibiotics, and was narrowed to CTX following 
sensitivities with plan to complete a x14 day course (D1 ___ 
- ___.

#Malnutrition:
Patient is dependent on tube feeds and TPN for nutrition given 
inability to tolerate goal rate tube feeds due to nausea, 
abdominal pain. She was initially started on tube feeds at 
20cc/hr, tolerating without difficulty, but complicated by J 
tube dislodgment x2. She was continued on TPN, which she will be 
continued on as an outpatient. 

#Anemia
Multifactorial given liver disease, poor nutrition, and chronic 
illness. She had no evidence of active bleed. She received 
intermittent transfusions for goal Hgb >7.

#EtOH Cirrhosis
#Volume overload 
Childs C, MELD-Na 22. Previously complicated by ascites, HE, 
SBP, and HRS. Exam was concerning for mild hypervolemia. Her 
diuretics were initially held in setting of active infection, 
restarted at dose of torsemide 40mg and spironolactone 200mg 
prior to discharge. Her torsemide dose was increased to 80 mg 
due to volume overload in the setting of receiving large volumes 
of TPN. She was continued on lactulose/rifaximin for hepatic 
encephalopathy. Bactrim was switched to ciprofloxacin for SBP 
ppx in the setting of persistent blood stream infections likely 
stemming from an intraabdominal source. Midodrine increased to 
10mg TID for hypotension. Continued on MVI/thiamine/folate for 
malnutrition. She is not considered a transplant candidate at 
this time due to multiple medical conditions. Palliative Care 
was consulted for symptoms management and a goals of care 
discussion and the patient wished to pursue aggressive medical 
management at this time. 

#Coagulopathy
Patient noted to have elevated ___, so vitamin K was added to 
her TPN, but it did not lower her coags, so the vitamin K was 
stopped, as this was felt to be due to her liver disease. 

#Esophagitis: 
Noted on EGD ___, not noted on EGD from ___. She was 
continued on lansoprazole daily

#Hyponatremia
Patient intermittently hyponatremia, with Na as low as 130. This 
initially responded to albumin dosing as she was felt to be dry, 
but later, as she gained weight and was volume overloaded on 
exam, this was felt to be secondary to generalized volume 
overload. She had no neurologic symptoms. 

#Depression/anxiety: 
She was continued on her home escitalopram 20 mg daily.

#Seizures: 
She was continued on her home LevETIRAcetam 1000mg PO BID

TRANSITIONAL ISSUES:
===================
Discharge Weight: 102.2kg
New Medications:
[] Patient started on ciprofloxacin 500mg daily for SBP ppx
[] Started on omeprazole 40mg daily for esophagitis. Should open 
capsules and mix with apple juice and then give through G-tube. 
Changed Medications: 
[] midodrine increased to 10mg TID due to hypotension
[] torsemide increased to 80mg daily

[] Patient will need repeat will have repeat labs on ___, 
___: CBC, Chem10, LFTS, Coags
[] Patient will be continued on TPN. Her formulation was changed 
the day of discharge to include Zinc, which she will be started 
on the following week as she has already had prior TPN 
delivered. 
[] Patient will be continued with ostomy bags over J-tube site. 
She was provided with ostomy teaching as an inpatient. 
[] Patient electing to not follow-up with Palliative Care as 
outpatient due to travel distance, but if she requests in the 
future, they are happy to see her

Advanced Care Planning
#Code status: Full
#Contact: HCP - parents ___ , 
___. Alternative contact is Boyfriend (___): 
___.
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. Hyoscyamine 0.125 mg SL QID PRN abdominal pain 
5. Lactulose 30 mL PO Q6H 
6. LevETIRAcetam Oral Solution 1000 mg PO BID 
7. Lidocaine 5% Ointment 1 Appl TP BID:PRN Pain around g tube 
8. Metoclopramide 10 mg PO Q6H 
9. Midodrine 5 mg PO TID 
10. Polyethylene Glycol 17 g PO DAILY 
11. Rifaximin 550 mg PO BID 
12. Senna 8.6 mg PO BID 
13. Simethicone 40-80 mg PO QID:PRN gas pain 
14. Spironolactone 200 mg PO DAILY 
15. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
16. TraMADol 100 mg PO BID 
17. FoLIC Acid 1 mg PO DAILY 
18. Multivitamins 1 TAB PO DAILY 
19. Thiamine 100 mg PO DAILY 
20. Pantoprazole 40 mg PO Q24H 
21. Methylnaltrexone 12 mg Subcut DAILY 
22. Torsemide 40 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO DAILY 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
2.  HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Moderate 
RX *hydromorphone 2 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*0 
3.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
4.  Midodrine 10 mg PO TID 
RX *midodrine 10 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0 
5.  Torsemide 80 mg PO DAILY 
RX *torsemide 20 mg 4 tablet(s) by mouth once a day Disp #*120 
Tablet Refills:*0 
6.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
7.  Bisacodyl 10 mg PO/PR DAILY  
8.  Escitalopram Oxalate 20 mg PO DAILY  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Lactulose 30 mL PO Q6H  
11.  LevETIRAcetam Oral Solution 1000 mg PO BID  
12.  Lidocaine 5% Ointment 1 Appl TP BID:PRN Pain around g tube  

13.  Methylnaltrexone 12 mg Subcut DAILY  
14.  Metoclopramide 10 mg PO Q6H  
15.  Multivitamins 1 TAB PO DAILY  
16.  Polyethylene Glycol 17 g PO DAILY  
17.  Rifaximin 550 mg PO BID  
18.  Senna 8.6 mg PO BID  
19.  Simethicone 40-80 mg PO QID:PRN gas pain  
20.  Spironolactone 200 mg PO DAILY  
21.  Thiamine 100 mg PO DAILY  
22.  TraMADol 100 mg PO BID  
23.Outpatient Lab Work
labs: CBC, BMP, LFTs, ___
ICD-10 code: ___
Date: ___
Please fax to: ___. ___, ___ MD  
___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses
==================
- Cellulitis
- Klebsiella bacteremia
- Acute on chronic abdominal pain
- Malnutrition
- Alcoholic cirrhosis
- Pancytopenia
- Hyponatremia

Secondary diagnoses
==================
- Esophagitis
- Depression
- Anxiety
- Seizures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
- You had worsening abdominal pain

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You received pain medications and bowel medications to help 
with your pain
- You developed an infection in your blood stream and were 
started on antibiotics
- Your J-tube fell out twice and was replaced by the 
Interventional Radiology doctors, but was eventually taken out 
- You were given nutrition with intravenous TPN 
- You were given medications to help take fluid off, which are 
called diuretics or water pills

WHAT SHOULD I DO WHEN I GO HOME?
-Please weigh yourself every day, before you take your 
medications. Please call your doctor if your weight changes by 
more than 3 pounds
-Please keep all of your follow up appointments with your team 
of doctors.

___ you for letting us be a part of your care!

Sincerely,

Your ___ Team
 
Followup Instructions:
___